US07977331B1
To a suspension of ethyl 1-(2-benzyloxyethyl)-2-bromo-3-cyclohexyl-1H-pyrrolo[2,3-b]pyridine-6-carboxylate (592 mg, 1.22 mmol) and 2,4-bismethoxymethoxyphenylboronic acid (384 mg, 1.59 mmol) obtained in the same manner as in Example 2-1, Step 2 in 1,2-dimethoxyethane (12 ml) and water (6 ml) were added lithium chloride (155 mg, 3.66 mmol), sodium carbonate (388 mg, 3.66 mmol) and tetrakis(triphenylphosphine)palladium (141 mg, 0.12 mmol), and the mixture was stirred with heating at 110° C. for 2.5 hr. The reaction mixture was allowed to cool to room temperature. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel chromatography (hexane:ethyl acetate=3:1) to give ethyl 1-(2-benzyloxyethyl)-2-(2,4-bismethoxymethoxyphenyl)-3-cyclohexyl-1H-pyrrolo[2,3-b]pyridine-6-carboxylate (727 mg, yield 99%).

reactant | ethyl 1-(2-benzyloxyethyl)-2-bromo-3-cyclohexyl-1H-pyrrolo[2,3-b]pyridine-6-carboxylate | 1.22 mmol, 592 mg | C(C1=CC=CC=C1)OCCN1C(=C(C=2C1=NC(=CC2)C(=O)OCC)C2CCCCC2)Br | C25H29BrN2O3
reactant | 2,4-bismethoxymethoxyphenylboronic acid | 1.59 mmol, 384 mg | COCOC1=C(C=CC(=C1)OCOC)B(O)O | C10H15BO6
reactant | lithium chloride | 3.66 mmol, 155 mg | [Cl-].[Li+]
reactant | sodium carbonate | 3.66 mmol, 388 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 12 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.12 mmol, 141 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Water | O | H2O
solvent | water | 6 ml | O | H2O
product | ethyl 1-(2-benzyloxyethyl)-2-(2,4-bismethoxymethoxyphenyl)-3-cyclohexyl-1H-pyrrolo[2,3-b]pyridine-6-carboxylate | 727 mg, yield 99% | C(C1=CC=CC=C1)OCCN1C(=C(C=2C1=NC(=CC2)C(=O)OCC)C2CCCCC2)C2=C(C=C(C=C2)OCOC)OCOC | C35H42N2O7
